US07105558B2
Step b. 2-(2,6-Dichloro-phenyl)-5-phenoxymethyl-2H-[1,2,3]triazole-4-carboxylic acid ethyl ester
Triethylamine (2.09 mL, 15.0 mmol) was added to a stirred suspension of the product from step a (10.0 mmol) and 2,6-dichlorophenylhydrazine-hydrochloride (3.20 g, 10.0 mmol) in ethanol (30 mL). The resultant solution was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate and was washed sequentially with 2M HCl and brine. The organic phase was dried (MgSO4) and the filtrate was evaporated at reduced pressure. The residue was dissolved in DCM (100 mL) and the solution was cooled in ice/water. 1,8-Diazabicyclo[5.4.0]undec-7-ene (1.84 mL, 12.3 mmol) and p-toluenesulfonyl chloride (2.14 g, 11.2 mmol) were added sequentially, the coolant removed and the reaction mixture was stirred at room temperature for 40 minutes. The reaction mixture was re-cooled in ice/water and further 1,8-diazabicyclo[5.4.0]undec-7-ene (1.84 mL, 12.3 mmol) was added. The coolant was removed and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was washed sequentially with 2M HCl, saturated aqueous sodium hydrogen carbonate and brine. The organic phase was dried (MgSO4) and the filtrate evaporated at reduced pressure. The residue was purified by flash column chromatography (2:1 hexane:ethyl acetate) to recover the title compound (1.44 g, 37%). 1H NMR (CDCl3) 7.48-7.44 (3H, m), 7.32-7.27 (2H, m), 7.08-6.98 (3H, m), 5.52 (2H, s), 4.49 (2H, q, J=7.2 Hz), 1.41 (3H, t, J=7.2 Hz).

reactant | Triethylamine | 15.0 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorophenylhydrazine-hydrochloride | 10.0 mmol, 3.20 g | Cl.ClC1=C(C(=CC=C1)Cl)NN
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 12.3 mmol, 1.84 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | p-toluenesulfonyl chloride | 11.2 mmol, 2.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.3 mmol, 1.84 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(2,6-Dichloro-phenyl)-5-phenoxymethyl-2H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(N=C1COC1=CC=CC=C1)C1=C(C=CC=C1Cl)Cl | C18H15Cl2N3O3
